US05173489
Part 3: Preparation of 9,9-Bis(4-pyridinylmethyl)-cyclopenta[1,2-b:3,4-b']dipyridine
Following the alkylation procedure described in Example 608, Part D, 2.0 g (12 mole) of 1,5-diazafluorene, 4.68 g (29 mmole) of 4-picolylchloride, 1.44 g (30 mole) of 50% sodium hydride were heated at 55° in 10 ml tetrahydrofuran and 25 ml benzene until TLC (ethyl acetate-methanol-90:10) showed appearance of product (Rf 0.065) and disappearance of starting diazafluorene (Rf 0.28). Crude product triturated with ether to yield 2.90 g, m.p. 133°-137°. This was flash chromatographed with ethyl acetate and recrystallized from benzene using charcoal to decolorize. Yield 2.4 g, m.p. 139.8°-140.9°. Rf 0.16 (ethyl acetate-methanol 90:10). NMR (200 MHz,CDCl3) δ3.397-3.718(dd,4H,(--CH2 --pyridyl); 6.450-6.475(d,4H,β-pyridyls); 7.240-7.324(m,2H, the 3- and 7-H's of the 1,5-diazafluorene, each meta to one of the nitrogens); 7.802-7.808(d,1H,8-H of diazafluorene); 7.879-7.885(d,1H,4-H of diazafluoroene); 8.097-8.122 (d,4H,α-pyridyls); 8.451-8.476(d,1H, 2-H of diazafluoroene); 8.741-8.763(d,1H,6-H of diazafluoroene). ##EQU1##

reactant | 1,5-diazafluorene | 12 mole, 2.0 g | N1=CC=CC=2C3=NC=CC=C3CC12 | C11H8N2
reactant | 4-picolylchloride | 29 mmole, 4.68 g | N1=CC=C(C=C1)CCl | C6H6ClN
reactant | sodium hydride | 30 mole, 1.44 g | [H-].[Na+]
reactant | diazafluorene | N1=NC=CC=2C3=CC=CC=C3CC12 | C11H8N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 9,9-Bis(4-pyridinylmethyl)-cyclopenta[1,2-b:3,4-b']dipyridine | N1=CC=C(C=C1)CC1(C2=NC=CC=C2C2=NC=CC=C21)CC2=CC=NC=C2 | C23H18N4
